US20010053779A1
A mixture comprising 4-nitro-3-methoxybenzoic acid (5.0 g, 25.4 mmol) and aqueous methylamine (40%, 15 mL) is a sealed tube was heated in an oil bath at 100° C. for 12 hours, allowed to cool to room temperature, and then poured into a stirring slurry of 1M aqueous hydrochloric acid and ice to give an orange precipitate. The precipitate was collected by filtration, rinsed with water and recrystallized from hot ethanol to provide 3-methylamino-4-nitrobenzoic acid as a bright red crystalline solid (3.6 g, 73% yield); 1H-NMR (300 MHz, DMSO-d6): 13.5 (s), 8.3 (q), 8.2 (d), 7.4 (s), 7.1 (d), 3.0 (d).

reactant | 4-nitro-3-methoxybenzoic acid | 25.4 mmol, 5.0 g | [N+](=O)([O-])C1=C(C=C(C(=O)O)C=C1)OC | C8H7NO5
reactant | methylamine | 15 mL | CN | CH5N
reactant | hydrochloric acid | 1M | Cl | ClH
product | 3-methylamino-4-nitrobenzoic acid | 3.6 g, 73% yield | CNC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H8N2O4
